US07696223B2
a) 2-[(7-Hydroxy-4-methyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-propionic acid
A mixture of 7-hydroxy-4-methyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (50 mg, 0.16 mmol) and L-alanine (146 mg, 1.63 mmol) in 0.5 M sodium methoxide/methanol (2.6 mL) was heated at 120° C. in a microwave vessel for 3 h before it was cooled to room temperature and concentrated in vacuo. Water was added to the residue and extracted four times with dichloromethane until no UV spot in the dichloromethane layer. The remaining aqueous layer was acidified to pH=3 with 1N HCl (2 mL). The suspension was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo to give the title compound as a white solid (22 mg): 1H NMR (DMSO-d6, 200 MHz): δ=12.98 (br s, 1H), 9.06 (d, J=7.4 Hz, 1H), 8.15 (m, 2H), 7.61 (m, 3H), 4.54 (m, 1H), 2.88 (s, 3H), 1.49 (d, J=7.4 Hz, 3H); MS: (+) m/z 358.04 (M+1).

reactant | 7-hydroxy-4-methyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.16 mmol, 50 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C)N=C(S2)C2=CC=CC=C2)O | C16H14N2O3S
reactant | L-alanine | 1.63 mmol, 146 mg | N[C@@H](C)C(=O)O | C3H7NO2
solvent | sodium methoxide methanol | 0.5 M, 2.6 mL | C[O-].[Na+].CO
product | 2-[(7-Hydroxy-4-methyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-propionic acid | 22 mg | OC=1C2=C(C(=NC1C(=O)NC(C(=O)O)C)C)N=C(S2)C2=CC=CC=C2 | C17H15N3O4S
